US08202858B2
(4-Hydroxy-phenyl)-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone
(4-Benzyloxy-phenyl)-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone from Example E75.1 (800 mg, 1.95 mmol) was dissolved in methanol (100 ml) and hydrogenated over 10% Pd/C catalyst (400 mg) for 7 h. The mixture was filtered through Celite® filter agent, washed with chloroform and methanol and the filtrate was concentrated in vacuo to yield the title compound (140 mg, 22%).

reactant | (4-Benzyloxy-phenyl)-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2 | C25H22N4O2
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | (4-Hydroxy-phenyl)-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone | 140 mg, 22% | OC1=CC=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2 | C18H16N4O2
